US07531537B2
Triethyl phosphonoacetate (7.96 g) is dissolved in tetrahydrofuran (50 ml) and thereto is added gradually 60% sodium hydride in oil (1.45 g) under ice-cooling. After stirring for 20 minutes under ice-cooling, to the mixture is added 1-isopropylpiperidine-4-carbaldehyde (5.03 g) obtained in Reference Example 134(2) in tetrahydrofuran (25 ml). The reaction solution is stirred for 3 hours, diluted with diethyl ether, thereto is added water and the mixture is extracted with ethyl acetate. The organic layer is washed with water and saturated brine, dried over sodium sulfate and evaporated to remove the solvent under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1) to give ethyl 3-(1-isopropylpiperidin-4-yl)acrylate (6.87 g).

reactant | sodium hydride | [H-].[Na+]
reactant | 1-isopropylpiperidine-4-carbaldehyde | 5.03 g | C(C)(C)N1CCC(CC1)C=O | C9H17NO
reactant | water | O | H2O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 3-(1-isopropylpiperidin-4-yl)acrylate | 6.87 g | C(C)(C)N1CCC(CC1)C=CC(=O)OCC | C13H23NO2
